US07323466B2
(R)-2-(3-chloro-4-cyclopropylmethoxybenzyl)morpholine
Sodium hydride (50 mg, 1.25 mmol) was washed twice with isohexane and then suspended in anhydrous N,N-dimethyl formamide (0.5 mL), under an atmosphere of nitrogen and cooled to 0° C. Then cyclopropylmethanol (90 mg, 1.25 mmol) was added. When effervescence had finished intermediate (a), N-Benzyl-(R)-2-(3-chloro-4-fluorobenzyl)morpholine (0.10 g, 0.31 mmol) was added as a solution in N,N-dimethyl formamide (1.0 mL). The reaction was then warmed to 100° C. (bath temperature) for 6 hrs and cooled to room temperature. The mixture was poured into water (25 mL) and extracted with ethyl acetate (25 mL). The organic layer was washed with brine (10 mL×2), dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (silica; 20% ethyl acetate/isohexane) to give a residue that was added to an SCX-2 column (10 g) as a solution in dichloromethane, washed with dichloromethane (6 mL×2) and methanol (6 mL×2). The SCX-2 column was then washed with ammonia (2N in methanol, 3×6 mL). Combined ammonia washes were concentrated in vacuo to yield the desired product as colorless oil (85 mg). N-Benzyl-(R)-2-(4-cyclopropylmethoxy-3-chlorobenzyl)morpholine (82 mg, 0.22 mmol) was then dissolved in 1,2-dichloroethane (3 mL) and treated with 1-chloro-ethyl-chloroformate (94 mg, 0.66 mmol) and heated at 85° C. for 3 hrs. The reaction mixture was then concentrated in vacuo. The residue was dissolved in methanol (7 mL) and heated at 75° C. for 2.5 hrs. The reaction mixture was then concentrated in vacuo. The crude residue was dissolved in dichloromethane (1 mL) and the solution poured onto a SCX-2 column (2 g), eluting with dichloromethane (2 ml×2) and methanol (2 mL×2). The column was then washed with ammonia (2N in methanol, 2 mL×2). The ammonia washes were concentrated in vacuo. The crude residue was purified by preparative chiral HPLC to yield the desired morpholine example 27 as a yellow oil (10 mg).

reactant | Sodium hydride | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | cyclopropylmethanol | 1.25 mmol, 90 mg | C1(CC1)CO | C4H8O
reactant | N-Benzyl-(R)-2-(3-chloro-4-fluorobenzyl)morpholine | 0.31 mmol, 0.10 g | C(C1=CC=CC=C1)N1C[C@H](OCC1)CC1=CC(=C(C=C1)F)Cl | C18H19ClFNO
reactant | water | 25 mL | O | H2O
solvent | isohexane | CCCC(C)C | C6H14
solvent | N,N-dimethyl formamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl formamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-2-(3-chloro-4-cyclopropylmethoxybenzyl)morpholine | 85 mg | ClC=1C=C(C[C@@H]2CNCCO2)C=CC1OCC1CC1 | C15H20ClNO2
